US04374984
78 g of 4-acetyl-benzophenone is boiled together with 500 ml of ethanol and 200 ml of triethyl orthoformate for 5 hours. The solvent is then distilled off under reduced pressure and the residue is subjected to fractional distillation. 4-(Diethoxyacetyl)-benzophenone is obtained; b.p. 200°/67 P.

reactant | 4-acetyl-benzophenone | 78 g | C(C)(=O)C1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H12O2
reactant | triethyl orthoformate | 200 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(Diethoxyacetyl)-benzophenone | C(C)OC(C(=O)C1=CC=C(C(=O)C2=CC=CC=C2)C=C1)OCC | C19H20O4
